US07838675B2
i) 2-[[6-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinyl]oxy]-N,N-dimethyl-1-propanamine
The subtitle compound was prepared according to the procedure outlined in Example 41 step i) using 1-dimethylamino-2-propanol (80 mg), 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine (the product of Example 1 step ii) (0.25 g) and 60% sodium hydride (30 mg) in THF (2 mL) at room temperature for 2 d to give the subtitle compound as a pale yellow gum. Yield: 0.29 g.

reactant | 1-dimethylamino-2-propanol | 80 mg | CN(CC(C)O)C | C5H13NO
reactant | 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine | ClC1=NC(=NC(=C1)Cl)SCC1=C(C(=CC=C1)F)F | C11H6Cl2F2N2S
reactant | sodium hydride | 30 mg | [H-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-[[6-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinyl]oxy]-N,N-dimethyl-1-propanamine | ClC1=CC(=NC(=N1)SCC1=C(C(=CC=C1)F)F)OC(CN(C)C)C | C16H18ClF2N3OS
